US06297238B1
A mixture of indan-1-one (3.3 g), methyl 4-formylbenzoate (5.0 g), piperidine (0.6 ml) and glacial acetic acid (0.5 ml) was heated on a steam bath for 3 hours. The solid mass obtained was boiled up in industrial methylated spirits (200 ml) and then hot filtered. The solid residue obtained was washed with industrial methylated spirits and dried to give methyl 4-(1-oxoindan-2-ylidenemethyl)benzoate, m.p. 194-198° C.

reactant | indan-1-one | 3.3 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | methyl 4-formylbenzoate | 5.0 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | piperidine | 0.6 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | methyl 4-(1-oxoindan-2-ylidenemethyl)benzoate | O=C1C(CC2=CC=CC=C12)=CC1=CC=C(C(=O)OC)C=C1 | C18H14O3
